US07547701B2
3-(4-Fluorophenylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)-ethylamino]propionic acid (146 mg) and 4-aminotetrahydrothiopyran-4-carbonitrile (104 mg) were weighed into a 4 mL vial fitted with a stir bar and cap and DMF (2 mL) was added to give a dark amber solution. Diisopropylamine (0.23 mL) and O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (271 mg) were added and the vial was flushed the vial with nitrogen and sealed with the cap. After 1 h, the reaction mixture was diluted with a 9:1 mixture of CH2Cl2:EtOAc (40 mL)) and washed with 1.0M aqueous KHSO4, water, a 1:1 H2O: saturated aqueous NaHCO3, and brine and dried over anhydrous MgSO4. After concentration, the residue was purified by flash chromatography on 20 cm3 silica gel using 9:1 CHCl3: EtOAc eluent to give the N-(4-cyanotetrahydrothiopyran-4-yl)-3-(4-fluorophenylmethanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenylethylamino)-propionamide (30 mg) as a beige solid.

reactant | 3-(4-Fluorophenylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)-ethylamino]propionic acid | 146 mg | FC1=CC=C(C=C1)CS(=O)(=O)C[C@@H](C(=O)O)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F | C18H16F5NO4S
reactant | 4-aminotetrahydrothiopyran-4-carbonitrile | 104 mg | NC1(CCSCC1)C#N | C6H10N2S
reactant | Diisopropylamine | 0.23 mL | C(C)(C)NC(C)C | C6H15N
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 271 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-cyanotetrahydrothiopyran-4-yl)-3-(4-fluorophenylmethanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenylethylamino)-propionamide | 30 mg | C(#N)C1(CCSCC1)NC([C@H](CS(=O)(=O)CC1=CC=C(C=C1)F)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O | C24H24F5N3O3S2
